US05792769
f) 2-Chlorobenzenesulfonic acid, 3-[[1-(aminoiminomethyl)piperidin-4-yl]methoxy]-5-methylphenyl ester
A solution of 2-chlorobenzenesulfonic acid 3-[(piperidin-4-yl)methoxy]-5-methylphenyl ester (396 mg, 1.0 mmol), as prepared in the preceding step, in DMF (10 mL), N,N-diisopropylethylamine (0.5 mL) and aminoiminomethanesulfonic acid (248 mg, 2.0 mmol) was stirred at room temperature overnight. The DMF was removed in vacuo and the residue was purified by flash column chromatography (90:10 methylene chloride:methanol saturated with NH3) to give the title compound as a white foam (159 mg, 36%). 1H-NMR (300 MHz, CDCl3) δ 1.45 (m, 2H), 1.92 (m, 3H), 2.21 (s, 3H), 3.07 (t, 2H), 3.69 (d, 2H), 4.09 (d, 2H), 6.46 (d, 1H), 6.49 (s, 1H), 6.56 (s, 1H), 7.28 (s, 3H), 7.39 (t, 1H), 7.62 (m, 2H), 7.95 (dd, IH). Mass spectrum (MALDI-TOF, sinapinic acid matrix) calcd. for C20H24N3O4SCl: 438.1 (M+H), 460.1 (M+Na), Found: 438.3, 460.1.

reactant | 2-chlorobenzenesulfonic acid 3-[(piperidin-4-yl)methoxy]-5-methylphenyl ester | 1.0 mmol, 396 mg | N1CCC(CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C19H22ClNO4S
reactant | N,N-diisopropylethylamine | 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | aminoiminomethanesulfonic acid | 2.0 mmol, 248 mg | NN=CS(=O)(=O)O | CH4N2O3S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Chlorobenzenesulfonic acid, 3-[[1-(aminoiminomethyl)piperidin-4-yl]methoxy]-5-methylphenyl ester | 159 mg, 36% | ClC1=C(C=CC=C1)S(=O)(=O)OC1=CC(=CC(=C1)C)OCC1CCN(CC1)C=NN | C20H24ClN3O4S
